US08633186B2
N-(2-Cyano-3-fluorophenyl)sulfamide
Prepared as in Example 77a from 2-amino-6-fluorobenzonitrile and sulfamoyl chloride

reactant | 2-amino-6-fluorobenzonitrile | NC1=C(C#N)C(=CC=C1)F | C7H5FN2
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
product | N-(2-Cyano-3-fluorophenyl)sulfamide | C(#N)C1=C(C=CC=C1F)NS(=O)(=O)N | C7H6FN3O2S
